US07452894B2
9-(4-tert-Butylphenylsulphonyl)-6-(2-furyl)-9H-purine-2-amine (Example 27)
A solution of 6-(2-furyl)-1H-purine-2-amine (100 mg, 0.5 mmol) in THF (2 mL) and DMF (0.5 mL) was treated with 4-tert-butylbenzenesulphonyl chloride (116 mg, 0.5 mmol) and Et3N (69 μL, 0.6 mmol), heated at 60° C. for 2 h, cooled, diluted with water and the resulting solid filtered and washed with EtOAc to give the title compound (106 mg, 53%) as a cream solid.

reactant | 6-(2-furyl)-1H-purine-2-amine | 0.5 mmol, 100 mg | O1C(=CC=C1)C1=C2N=CN=C2N=C(N1)N | C9H7N5O
reactant | 4-tert-butylbenzenesulphonyl chloride | 0.5 mmol, 116 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
reactant | Et3N | 0.6 mmol, 69 μL | CCN(CC)CC | C6H15N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 9-(4-tert-Butylphenylsulphonyl)-6-(2-furyl)-9H-purine-2-amine | 106 mg, 53% | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N1C2=NC(=NC(=C2N=C1)C=1OC=CC1)N | C19H19N5O3S
